US06207678B1
Ethyl 2-cyano-2-(1-benzyl-4-(3,5-dimethylphenyl)piperidin-4-yl)ethanoate
1,3-Dimethyl-5-bromobenzene (15.6 g) was dissolved in anhydrous diethyl ether (60 ml) and added to a vigorously stirred mixture of magnesium turnings (2.2 g) and 2-3 iodine crystals under a nitrogen atmosphere. Gentle heating was applied to initiate formation of the Grignard reagent and once the spontaneous refluxing had subsided the mixture was heated under reflux for a further 30 minutes. The mixture was cooled in an ice-bath and a solution of ethyl 2-(1-benzylpiperidin-4-ylidene)-2-cyanoacetate (8.0 g) (see Preparation 2) in anhydrous tetrahydrofuran (80 ml) added over 20 minutes. The mixture was stirred at 0° C. for 15 minutes before being left to stand at room temperature for 3 days. The mixture was then poured into saturated aqueous ammonium chloride solution (300 ml) and extracted twice with diethyl ether. The organic extracts were combined and the solvent removed under reduced pressure to give a residue which was chromatographed on silca gel eluting with a solvent gradient of 3:0 changing to 3:1, by volume, dichloromethane:diethyl ether to give the title compound (4.7 g) as an oil.

reactant | 1,3-Dimethyl-5-bromobenzene | 15.6 g | CC1=CC(=CC(=C1)Br)C | C8H9Br
reactant | magnesium | 2.2 g | [Mg] | Mg
reactant | iodine crystals | II | I2
reactant | ethyl 2-(1-benzylpiperidin-4-ylidene)-2-cyanoacetate | 8.0 g | C(C1=CC=CC=C1)N1CCC(CC1)=C(C(=O)OCC)C#N | C17H20N2O2
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | Ethyl 2-cyano-2-(1-benzyl-4-(3,5-dimethylphenyl)piperidin-4-yl)ethanoate | 4.7 g | C(#N)C(C(=O)OCC)C1(CCN(CC1)CC1=CC=CC=C1)C1=CC(=CC(=C1)C)C | C25H30N2O2
